US04211783
A mixture of 2.25 g. of methyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoate, 280 mg. of 1,3-propanediol and 1.37 g. p-toluenesulfonic acid is heated at 180° C. for 18 hours and then is partitioned between ether and 3% aqueous sodium carbonate solution. The ether layer is separated, dried, and evaporated to yield 3-hydroxypropyl 1,3-propanediol 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoate.

reactant | methyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoate | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)OC)C=C1 | C27H34ClNO2
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-hydroxypropyl 1,3-propanediol 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoate | OCCCC(CCO)O.ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)[O-])C=C1 | InChI=1S/C26H32ClNO2.C6H14O3/c27-24-17-13-22(14-18-24)12-10-8-6-4-2-1-3-5-7-9-11-21-28-25-19-15-23(16-20-25)26(29)30;7-4-1-2-6(9)3-5-8/h13-20,28H,1-9,11,21H2,(H,29,30);6-9H,1-5H2/p-1
